US04438271
(D) Preparation of 2-[1-(2,6-Difluorophenyl)ethylthio]pyridine 1-oxide
2,6-Difluoro-alpha-methylbenzyl chloride (16.6 g, 0.094 mol) is dissolved in ethanol (40 ml) and warmed to 75° C. A 40 percent solution of sodium omadine (38.5 g, 0.103 mol) is added dropwise over a period of 30 minutes maintaining a reaction temperature of 75° C. throughout. Once the addition is complete, the reaction mixture is kept between 75° C. and 80° C. for 2 hours. Thereafter the mixture is quenched in ice-water and crude product is filtered off. After recrystallization with ethyl acetate pure title product (10.65 g, 42.4%) is obtained; Melting Point 158°-160° C.

reactant | 2,6-Difluoro-alpha-methylbenzyl chloride | 0.094 mol, 16.6 g | FC1=C(C(C)Cl)C(=CC=C1)F | C8H7ClF2
reactant | sodium omadine | 0.103 mol, 38.5 g | C=1C=C[N+](=C(C1)[S-])[O-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[1-(2,6-Difluorophenyl)ethylthio]pyridine 1-oxide | FC1=C(C(=CC=C1)F)C(C)SC1=[N+](C=CC=C1)[O-] | C13H11F2NOS
